US09238644B2
(a) 1-(2-((2-((6-Methoxypyridin-3-yl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide (A73)
A mixture of 1-(2-ethynylphenyl)cyclopropanecarboxamide K6 (0.120 g, 0.648 mmol), 4-chloro-N-(6-methoxypyridin-3-yl)-5-(trifluoromethyl)pyrimidin-2-amine A68 (0.197 g, 0.648 mmol), CuI (0.012 g, 0.065 mmol), t-Bu3PHBF4 (0.019 g, 0.065 mmol) and PdCl2(PPh3)2 (0.023 g, 0.032 mmol) in DMF (3 mL) was bubbled with N2 for 5 minutes. Et3N (1 mL) was added and the reaction mixture was stirred in the microwave at 120° C. for 15 minutes. The volatiles were removed in vacuo and the black residue was adsorbed onto silica. Purification by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) gave the title compound A73 as a yellow solid (0.229 g, 78%). LCMS-D: rt 3.47 min; m/z 454 [M+H]+.

reactant | 1-(2-ethynylphenyl)cyclopropanecarboxamide | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)N | C12H11NO
reactant | 4-chloro-N-(6-methoxypyridin-3-yl)-5-(trifluoromethyl)pyrimidin-2-amine | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NC(=CC1)OC | C11H8ClF3N4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.065 mmol, 0.012 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.032 mmol, 0.023 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-((2-((6-Methoxypyridin-3-yl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide | COC1=CC=C(C=N1)NC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C1(CC1)C(=O)N)C(F)(F)F | C23H18F3N5O2
